US04929637
Step A: Preparation of 4-(1-Acetamidoethyl)-5-ethylsulfonylthiophene-2-sulfonamide
To acetonitrile (40 ml) was added concentrated sulfuric acid (8.1 g, 0.0828 mol). Then 5-ethylsulfonyl-4-(1-hydroxyethyl)thiophene-2-sulfonamide (4.14 g, 0.0138 mol) was added and the solution was stirred at room temperature until no starting material remained (48 hours). The solution was neutralized by adding solid NaHCO3 along with water (5 ml). The mixture was filtered and the solids were washed with acetonitrile. The filtrate and washings were concentrated in vacuo to an oil. This residual oil was taken up in ethyl acetate (125 ml). The extract was washed with saturated NaCl, dried over anhydrous Na2SO4, filtered and concentrated in vacuo at room temperature, to give 2.74 g (58%) of white solid which was a single product by TLC, m.p. 213-220° C. NMR supported the structure.

reactant | acetonitrile | 40 ml | C(C)#N | C2H3N
reactant | sulfuric acid | 0.0828 mol, 8.1 g | S(O)(O)(=O)=O | H2O4S
reactant | 5-ethylsulfonyl-4-(1-hydroxyethyl)thiophene-2-sulfonamide | 0.0138 mol, 4.14 g | C(C)S(=O)(=O)C1=C(C=C(S1)S(=O)(=O)N)C(C)O | C8H13NO5S3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | water | 5 ml | O | H2O
product | 4-(1-Acetamidoethyl)-5-ethylsulfonylthiophene-2-sulfonamide | 2.74 g, 58% | C(C)(=O)NC(C)C=1C=C(SC1S(=O)(=O)CC)S(=O)(=O)N | C10H16N2O5S3
